US08492582B2
Under ice-cooling, trifluoroacetic acid (1.3 mL) was added to a methylene chloride (6.5 mL) solution of methyl 2-(2-(benzyloxy)-5-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzamido)-4-bromobenzoate (0.65 g), followed by stirring at room temperature for 30 minutes. The reaction mixture was added to a saturated aqueous solution of sodium bicarbonate under ice-cooling. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 0.54 g of methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-bromobenzoate as a white solid.

reactant | trifluoroacetic acid | 1.3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 2-(2-(benzyloxy)-5-(1-(tert-butoxycarbonyl)piperidin-4-yl)benzamido)-4-bromobenzoate | 0.65 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)Br)C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C32H35BrN2O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 6.5 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(2-(benzyloxy)-5-(piperidin-4-yl)benzamido)-4-bromobenzoate | 0.54 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)Br)C=C(C=C1)C1CCNCC1 | C27H27BrN2O4
